US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-2,4-difluoro-benzylamide
Prepared analogously to Example 1 from 2,4-difluorbenzylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 2,4-difluorbenzylamine | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-2,4-difluoro-benzylamide | FC1=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=CC(=C1)F | C25H22BrF2NO
